US06326369B1
1-Bromo-6-bromomethyl-2,3,4,5-tetramethoxybenzene
An ethyl acetate (300 ml) solution of 1-bromo-2,3,4,5-tetramethoxy-6-methylbenzene (49.5 g, 0.170 mols), N-bromosuccinimide (31.8 g, 0.179 mols) and AIBN (558 mg, 3.40 mmols) was heated under reflux for 1 hour. The reaction mixture was concentrated in vacuo, and then diluted with hexane. The resulting crystals were separated by filtration, and the filtrate was concentrated to obtain the entitled compound (62.6 g) as an oil.

reactant | 1-bromo-2,3,4,5-tetramethoxy-6-methylbenzene | 0.170 mols, 49.5 g | BrC1=C(C(=C(C(=C1C)OC)OC)OC)OC | C11H15BrO4
reactant | N-bromosuccinimide | 0.179 mols, 31.8 g | BrN1C(CCC1=O)=O | C4H4BrNO2
catalyst | AIBN | 3.40 mmols, 558 mg | CC(C)(C#N)N=NC(C)(C)C#N | C8H12N4
solvent | ethyl acetate | 300 ml | C(C)(=O)OCC | C4H8O2
product | 1-Bromo-6-bromomethyl-2,3,4,5-tetramethoxybenzene | 62.6 g | BrC1=C(C(=C(C(=C1CBr)OC)OC)OC)OC | C11H14Br2O4
